US09029544B2
(S)-4-Chloro-9-hydroxy-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one
213 mg (1R,2S)-(+)-cis-1-Amino-2-indanol are dissolved in 250 ml tetrahydrofurane and to this solution are dropwise added 3.58 ml of a borane-diethylaniline-complex. After completion of gas evolution the solution is cooled to 0° C. and 3.17 g 4-chloro-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione in 250 ml tetrahydrofurane are added dropwise. The temperature is raised during 2 hours to room temperature and the mixture is stirred for 18 hours, 213 mg (1R,2S)-(+)-cis-1-Amino-2-indanol are added and stirring is continued for further 7 hours. 20 ml methanol are added dropwise and the mixture is stirred for additional 10 minutes. The mixture is partitioned between 0.1 M hydrochloric acid and ethylacetate. The aqueous phase is twice extracted with ethylacetate. The combined organic phases are dried with sodium sulphate and the solvents are evaporated in vacuo. The residue is chromatographed on silica gel (petrole ether/ethylacetate 100:0 to 0:100).

reactant | (1R,2S)-(+)-cis-1-Amino-2-indanol | 213 mg | C1[C@@H]([C@@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | borane diethylaniline | 3.58 ml | B.CCN(CC)C=1C=CC=CC1
reactant | 4-chloro-7,7-dimethyl-2′,3′,5′,6′,7,8-hexahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3,9(6H)-dione | 3.17 g | ClC1=NC=2CC(CC(C2C2=C1C(OC21CCOCC1)=O)=O)(C)C | C17H18ClNO4
reactant | (1R,2S)-(+)-cis-1-Amino-2-indanol | 213 mg | C1[C@@H]([C@@H](C2=CC=CC=C21)N)O | C9H11NO
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofurane | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 250 ml | O1CCCC1 | C4H8O
product | (S)-4-Chloro-9-hydroxy-7,7-dimethyl-2′,3′,5′,6,6′,7,8,9-octahydro-3H-spiro[furo[3,4-c]quinoline-1,4′-pyran]-3-one | ClC1=NC=2CC(C[C@@H](C2C2=C1C(OC21CCOCC1)=O)O)(C)C | C17H20ClNO4
